US07473784B2
A solution of 2-(6-(ethylthio)-5-nitropyridin-2-yl)-3-(2-fluorophenyl)-3-oxopropanenitrile (0.40 g, 1.16 mmol, 1.0 eq.) and SnCl2.2H2O (1.35 g, 5.98 mmol, 5.2 eq.) in EtOAc (30 mL) was refluxed for 0.75 hr and cooled to room temperature. At 0° C., aqueous NaOH (1N, 15 mL) was added. The layers were separated, and the aqueous layer was extracted with EtOAc. The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. Silica gel chromatography using CH2Cl2:MeOH (10:0.2) as eluent afforded 2-(5-amino-6-(ethylthio)pyridin-2-yl)-3-(2-fluorophenyl)-3-oxopropanenitrile as a light brown solid (0.1933 g, 53%).

reactant | 2-(6-(ethylthio)-5-nitropyridin-2-yl)-3-(2-fluorophenyl)-3-oxopropanenitrile | 1.16 mmol, 0.40 g, 1.0 eq. | C(C)SC1=C(C=CC(=N1)C(C#N)C(=O)C1=C(C=CC=C1)F)[N+](=O)[O-] | C16H12FN3O3S
reactant | SnCl2.2H2O | 5.98 mmol, 1.35 g, 5.2 eq. | O.O.Cl[Sn]Cl
reactant | NaOH | 1N, 15 mL | [OH-].[Na+]
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 2-(5-amino-6-(ethylthio)pyridin-2-yl)-3-(2-fluorophenyl)-3-oxopropanenitrile | 0.1933 g, 53% | NC=1C=CC(=NC1SCC)C(C#N)C(=O)C1=C(C=CC=C1)F | C16H14FN3OS
